US04642308
The procedure is similar to that described in Example 1, but starting with 4-methoxybenzoic acid (10.2 g), N,N'-carbonyldiimidazole (10.9 g) and 2-amino-7-(2-methoxyphenoxy)-1,8-naphthyridine (13.4 g). The product produced by precipitation in water (18 g; m.p. 167° C.) is dissolved in boiling ethanol (400 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with ethanol (2×10 cc) and dried at 45° C. under reduced pressure (0.067 kPa). N-[7-(2-methoxyphenoxy)-1,8-naphthyridin-2-yl]-4-methoxybenzamide (14 g) is produced, m.p. 168°-170° C.

reactant | 4-methoxybenzoic acid | 10.2 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 2-amino-7-(2-methoxyphenoxy)-1,8-naphthyridine | 13.4 g | NC1=NC2=NC(=CC=C2C=C1)OC1=C(C=CC=C1)OC | C15H13N3O2
reactant | ethanol | 400 cc | C(C)O | C2H6O
solvent | water | 18 g | O | H2O
product | N-[7-(2-methoxyphenoxy)-1,8-naphthyridin-2-yl]-4-methoxybenzamide | 14 g | COC1=C(OC2=CC=C3C=CC(=NC3=N2)NC(C2=CC=C(C=C2)OC)=O)C=CC=C1 | C23H19N3O4
